US05310743
(2R*,4S*)-2-Benzyl-1-(3-methoxybenzoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 4 with 85 mg (0.561 mmol) of 3-methoxybenzoic acid, 143 mg (0.561 mmol) of bis-(2-oxo-3-oxazolidinyl)phosphinic chloride and 144 μl (1.03 mmol) of triethylamine. The title compound is obtained as white foam. TLC: methylene chloride/methanol/conc. ammonia (1000:50:1) Rf =0.45, FD-MS: M+ =561.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | 3-methoxybenzoic acid | 0.561 mmol, 85 mg | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | bis-(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.561 mmol, 143 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 1.03 mmol, 144 μl | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-2-Benzyl-1-(3-methoxybenzoyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(C1=CC(=CC=C1)OC)=O | C32H30F3N3O3
